### PR TITLE
[Merged by Bors] - feat(Topology/Group): define closed subgroup

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
Define the type of closed subgroup in a topological group.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/ClosedSubgroup.lean [hunk 1]
```diff
@@ -0,0 +1,133 @@
...
+    · simpa only [ConjAct.toConjAct_inv, inv_inv] using h
+  rw [this]
+  push_cast
+  apply isClosed_iInter
+  intro g
+  convert IsClosed.preimage (TopologicalGroup.continuous_conj (ConjAct.ofConjAct g⁻¹)) h
+  exact Set.ext (fun t => Set.mem_smul_set_iff_inv_smul_mem)
+
+@[to_additive]
+lemma finiteindex_closedSubgroup_isOpen (H : Subgroup G) [H.FiniteIndex]
```
Comment (chrisflav) [inline Mathlib/Topology/Algebra/ClosedSubgroup.lean:105]:
```suggestion
@[to_additive]
lemma isOpen_of_isClosed_of_finiteIndex (H : Subgroup G) [H.FiniteIndex]
```

File: Mathlib/Topology/Algebra/ClosedSubgroup.lean [hunk 2]
```diff
@@ -0,0 +1,133 @@
...
+open scoped Pointwise
+
+namespace TopologicalGroup
+
+variable {G : Type u} [Group G] [TopologicalSpace G] [ContinuousMul G]
+
+lemma normalCore_isClosed (H : Subgroup G) (h : IsClosed (H : Set G)) :
+    IsClosed (H.normalCore : Set G) := by
+  have : H.normalCore = ⨅ (g : ConjAct G), g • H := by
+    ext g
```
[the remark this answers is not in the document]
Comment (Thmoas-Guan) [reply Mathlib/Topology/Algebra/ClosedSubgroup.lean:90]: That is one of the problem, I didn't find any good place after conjact is defined, could you give some suggestions?

[the remark this answers is not in the document]
Comment (chrisflav) [reply Mathlib/Topology/Algebra/ClosedSubgroup.lean:90]: I think right after `Subgroup.smul_normal` in `Mathlib.Algebra.Group.Subgroup.Pointwise` would be a good place.

[the remark this answers is not in the document]
Comment (Thmoas-Guan) [reply Mathlib/Topology/Algebra/ClosedSubgroup.lean:90]: Thank you!

File: Mathlib/Algebra/Group/Subgroup/Pointwise.lean [hunk 3]
```diff
@@ -392,6 +392,13 @@ theorem Normal.conjAct {G : Type*} [Group G] {H : Subgroup G} (hH : H.Normal) (g
 theorem smul_normal (g : G) (H : Subgroup G) [h : Normal H] : MulAut.conj g • H = H :=
   h.conjAct g
 
+theorem normalCore_eq_iInf_conjAct {G : Type*} [Group G] (H : Subgroup G) :
+    H.normalCore = ⨅ (g : ConjAct G), g • H := by
```
Comment (chrisflav) [inline Mathlib/Algebra/Group/Subgroup/Pointwise.lean:396]: Is there already a `{G : Type*} [Group G]` in scope at this point of the file? If yes, could you please get rid of these in your lemma?

**Review by chrisflav — APPROVED** [review]
Apart from one comment, LGTM, thanks!

File: Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean [hunk 4]
```diff
@@ -161,4 +164,9 @@ instance : HasForget₂ ProfiniteGrp Grp where
     map := fun f => f.toMonoidHom
   }
 
+/-- A closed subgroup of a profinite group is profinite. -/
+def ofClosedSubgroup {G : ProfiniteGrp} (H : ClosedSubgroup G)  : ProfiniteGrp :=
+  letI : CompactSpace H := isCompact_iff_compactSpace.mp (IsClosed.isCompact H.isClosed')
+  of H.1
```
Comment (chrisflav) [inline Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean:170]: I think it would be useful if this was a standalone instance in the `ClosedSubgroup` file for any `G` with `[CompactSpace G]`.

Comment (Thmoas-Guan) [reply Mathlib/Topology/Algebra/Category/ProfiniteGrp.lean]: I draged the instance out side, but that `letI` then `inferInstance` still cannot be deleted, I think that doesn't matters much, but can it be designed better to do so?

File: Mathlib/Topology/Algebra/ClosedSubgroup.lean [hunk 5]
```diff
@@ -0,0 +1,128 @@
+/-
+Copyright (c) 2024 Jujian Zhang. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Nailin Guan
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/ClosedSubgroup.lean:4]: Is this correct? Usually both names are the same, when a new file is started.

**Comment by jcommelin** [comment]
bors d+

File: Mathlib/Topology/Algebra/ClosedSubgroup.lean (hunk 5 above)
Comment (Thmoas-Guan) [reply Mathlib/Topology/Algebra/ClosedSubgroup.lean:4]: Sorry that I just copy the file from my repo, maybe I should change it.
